Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm good." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note 
dated ___, Dr. ___ initial consultation note dated ___ admission note dated ___. 
.
Briefly, this is a ___ year old single Caucasian man with 
reported history of depression s/p one psychiatric 
hospitalization in ___ ___ for 
depression and suicidal ideation, history of intermittent 
cannabis use, who presented to ___ via EMS after his roommates 
were concerned for several hours of bizarre behaviors. ED course 
was notable for agitation with patient requiring mechanical and 
chemical restraints. 
. 
Upon initial interview, patient was noted to be tangential and 
grandiose, intrusive at times, requiring frequent redirection. 
Reported that he had been working on multiple academic projects 
for several weeks, questioning the existence of magic and the 
nature of reality, with decreased need for sleep and increased 
irritability. 
. 
Per collateral obtained from his parents, who are in ___: 
they last saw patient about a week ago during a family gathering 
and at that time he appeared at his baseline. 
. 
On interview with Dr. ___, patient was notably 
disorganized, making several comments about a woman he knows, 
calling her an "earth god" and stating he needs to leave in 
order to be able to see her. Reported that ___ needs more 
magic" and that "This reality is my reality and no one can say 
my reality." Patient became agitated when informed that he would 
be
placed on a ___ and required physical and chemical 
restraints. 
. 
Patient seen with ___, ___ and Dr. ___, 
___-2 neuro resident. Mr. ___ was significantly more 
organized and noted to be calm and cooperative on examination. 
Patient tended to minimize his presentation, stating that he 
came to the hospital because "all of my stressors came to a head 
and I lost it on ___ Patient went on to report that he had 
had a stressful few months due to "combined factors," stating 
that he is currently a grad student at ___ and that he was part 
of an organization to form a ___ school ___. Noted that he 
had been feeling pressure to "get everything done," and that he 
had also recently applied for a scholarship at a ___ 
and
was trying to coordinate this with his department. in addition, 
patient reported recent travel, stating he had recently been 
visiting his cousin in ___ and shortly after went to 
go visit his grandmother for her ___ birthday. Following his 
return from his visit from his grandmother, he sated he had to 
immediately talk with his ___. Patient reported that in the 
setting of all these pressures, he started screaming into a 
___ jar, which he reports his roommate had handed him. 
. 
On my exam, patient denied current depressive symptoms but 
stated he had been hospitalized at ___ in ___ of 
this year for suicidal ideation and depression following a break 
up. Stated that he was referred to a PHP following his 
discharge, which he found useful. Of note, denies he attempted 
suicide, stating he only had a plan. Denied SI/HI, AVH on my 
examination.
Reported he sleeps about ___ hours a night and finds routine 
helpful, although has been struggling somewhat to maintain a 
consistent schedule while at school. Denied racing thoughts, 
decreased need for sleep, increased impulsivity. Admitted to 
intermittent cannabis use with last use about ___ weeks ago. 
Denied current anxiety. Declined medications at this time, 
stating he is feeing well, and was amenable to being discharged 
later this week. Reported he has been attending therapy 
regularly and gave us permission to contact his outpatient 
therapist. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: unclear if formal diagnoses, history of depression
in the past 
- SA/SIB: denies/denies, although per OMR, patient with suicide
attempt via attempting to jump off bridge in ___
- Hospitalizations: ___ ___ 
- Psychiatrist: none 
- Therapist: ___ in ___, ___ 
- Medication Trials: denies 

Past Medical History: 
- Reports 2 remote concussions while biking and another while
skiing
 
Social History:
___
Family History:
Family History: 
Per collateral with father, the patient has a paternal uncle, 
currently deceased, who struggled with bipolar disorder. When 
asked, patient vaguely states that he had an uncle who "lives in 
a trailer park and might have had something," but declines to 
elaborate further. 
-Substance Use Disorders: None the patient is aware of 
-Suicide Attempts/Completed Suicides: None the patient is aware 
of 

 
Physical Exam:
T 97.9, HR 78, BP 145/93 , RR 18, SpO2 97% on RA
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents, identifies ___ as "the ___
investigating ___ for his conduct with ___ 
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "Sometimes when you're looking at something from
someone else's shoes, you might think they have it better."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Young man with long brown hair, wearing plaid shirt
and sweat pants, well-built
-Behavior: Sitting up in chair, appropriate eye contact,
fidgeting with pen throughout interview
-Attitude: Mostly cooperative and friendly but becomes slightly
less so when asked about past psychiatric symptoms
-Mood: "Okay"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

 
Pertinent Results:
___ 06:55AM URINE  HOURS-RANDOM
___ 06:55AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:55AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 06:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:55AM URINE  RBC-4* WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 06:55AM URINE  HYALINE-12*
___ 06:55AM URINE  AMORPH-OCC*
___ 06:55AM URINE  MUCOUS-MANY*
___ 04:55AM   GLUCOSE-98 UREA N-7 CREAT-0.7 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-26 ANION GAP-11
___ 04:55AM   estGFR-Using this
___ 04:55AM   ALT(SGPT)-20 AST(SGOT)-23 ALK PHOS-44 TOT 
BILI-1.6*
___ 04:55AM   ALBUMIN-4.5 MAGNESIUM-2.3
___ 04:55AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:55AM   WBC-8.9 RBC-4.77 HGB-14.6 HCT-42.2 MCV-89 
MCH-30.6 MCHC-34.6 RDW-12.0 RDWSD-38.7
___ 04:55AM   NEUTS-75.2* LYMPHS-14.1* MONOS-8.6 EOS-0.9* 
BASOS-0.7 IM ___ AbsNeut-6.67* AbsLymp-1.25 AbsMono-0.76 
AbsEos-0.08 AbsBaso-0.06
___ 04:55AM   PLT COUNT-223
 
Brief Hospital Course:
This is a ___ year old single Caucasian man with reported history 
of depression s/p one psychiatric hospitalization in ___ ___ for depression and suicidal ideation, 
history of intermittent cannabis use, who presented to ___ via 
EMS after his roommates were concerned for several hours of 
bizarre behaviors. ED course was notable for agitation with 
patient requiring mechanical and chemical restraints. 
. 
Initial presentation was concerning for severe psychosis with 
apparent acute onset (per collateral was seen by his parents 
about a week prior to presentation and appeared to be at his 
baseline) with ED course notable for grandiosity, irritability,
disorganized and tangential thought process, as well as 
agitation requiring numerous physical and chemical restraints. 
Interview on my examination was significantly more reassuring, 
with patient notably calm, cooperative with thought process that 
is linear, goal and future oriented. Of note, he denies AVH and 
he does not appear to be responding to internal stimuli. 
. 
In terms of etiology, presentation seems most consistent with 
substance induced psychosis, although the patient denies recent 
illicit substance use and his tox screen was negative on 
admission. Differential also includes brief psychotic disorder, 
bipolar disorder (although no clear history of mania in the 
past-- remains on the differential given young age with ?family 
history of bipolar). Has reportedly been depressed in the past, 
but denies depressive symptoms on examination and does not 
appear dysthymic or dysphoric on examination.  
. 
#. Legal/Safety: patient admitted to Deaconess ___ on a ___, upon admission, he declined to sign a CV, stating he wished 
to be discharged home. Patient maintained his safety throughout 
his hospitalization on 15 minute checks and did not require 
physical or chemical restraints. Given his good behavioral 
control with resolution of psychotic symptoms with consistent 
denial of SI/HI, he did not meet 7&8b criteria and was 
discharged upon expiration of his ___. 
.
#. Psychosis: as noted above
- Patient declined initiation of psychotropic medications during 
his hospitalization. He was offered prn Ativan, which he did not 
require. 
- Mr. ___ maintained excellent behavioral control in the 
milieu and was compliant in attending groups, where he 
participated appropriately 
- Of note, during his hospitalization, his psychosis cleared 
rapidly with thought process that became linear, logical, goal 
and future oriented. He was calm, cooperative on examination 
with full range of affect, consistently denying AVH with no 
evidence that he was responding to internal stimuli. 
- Patient was counseled to avoid using illicit drugs, including 
cannabis, as this may increase his risk for a recurrent episode 
of psychosis. The patient understood this risk and stated he 
would abstain. 
- Patient declined referral to a PHP and will follow up with 
outpatient treaters as noted in the discharge worksheet. 
.
#. Medical: no acute issues during this admission

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Patient declined medications during this admission 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brief Psychotic Disorder

 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative and pleasant with interviewer, good 
eye contact, no psychomotor agitation or retardation noted 
S: normal rate, volume, prosody, goal directed
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___